US04034107
A solution of 4-amino-3-nitrophenol (17.5 g.) in ethanol (300 ml.) was treated with solid potassium hydroxide (6.38 g.). The mixture was treated with a solution of 2 -bromoethyl ethyl thioether (21.2 g.) in ethanol (100 ml.), and stirred at room temperature for 4 hours. The reaction mixture was then concentrated in vacuo and the residue was dissolved in chloroform (200 ml.). The chloroform solution was washed with aqueous sodium bicarbonate solution (10% w/v; 200 ml.), dried over magnesium sulphate and evaporated to give 4-[2-(ethylthio)ethoxy]-2-nitroaniline (23.4 g.) in the form of a dark red oil, which was used in the next stage without further purification being necessary.

reactant | 4-amino-3-nitrophenol | 17.5 g | NC1=C(C=C(C=C1)O)[N+](=O)[O-] | C6H6N2O3
reactant | potassium hydroxide | 6.38 g | [OH-].[K+]
reactant | 2 -bromoethyl ethyl thioether | 21.2 g | C(C)SCCBr | C4H9BrS
solvent | ethanol | 300 ml | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-[2-(ethylthio)ethoxy]-2-nitroaniline | 23.4 g | C(C)SCCOC1=CC(=C(N)C=C1)[N+](=O)[O-] | C10H14N2O3S
